US04851526
3-Oxocycloheptanecarbonitrile
To 100 mL of toluene add 2-cyclohepten-1-one (11.0 g, 0.1 mol) and 200 mL (1M solution in toluene, 0.2 mol) of diethylaluminum cyanide. Monitor the reaction by thin-layer chromatography. Upon completion add 1M aqueous HCl until gas evolution ceases. Extract twice with 100 mL of ether. Dry the organic phase with Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 2-cyclohepten-1-one | 0.1 mol, 11.0 g | C1(C=CCCCC1)=O | C7H10O
reactant | diethylaluminum cyanide | 0.2 mol, 1M, 200 mL | [C-]#N.C(C)[Al+]CC
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Oxocycloheptanecarbonitrile | O=C1CC(CCCC1)C#N | C8H11NO
